US06407121B1
A mixture of 0.15 g of 6-fluoro-3-[1-[4-(4-fluorophenyl)-4-oxobutyl]piperidin-4-yl]benzo[b]thiophene hydrochloride, 0.05 g of anhydrous potassium carbonate, 0.36 ml of N,N-dimethylformamide dimethyl acetal, 0.25 ml of pyrrolidine and 0.5 ml of N,N-dimethylformamide was stirred on an oil bath at 120° C. for 3.5 hours. The reaction mixture was cooled to room temperature and then separated with ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed three times with a saturated aqueous sodium chloride solution. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure to obtain crude 6-fluoro-3-[1-[3-(1-pyrrolidinomethylene)-4-(4-fluorophenyl)-4-oxobutyl]piperidin-4-yl]benzo[b]thiophene.

reactant | 6-fluoro-3-[1-[4-(4-fluorophenyl)-4-oxobutyl]piperidin-4-yl]benzo[b]thiophene hydrochloride | 0.15 g | Cl.FC=1C=CC2=C(SC=C2C2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F)C1
reactant | potassium carbonate | 0.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide dimethyl acetal | 0.36 ml | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 0.25 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 6-fluoro-3-[1-[3-(1-pyrrolidinomethylene)-4-(4-fluorophenyl)-4-oxobutyl]piperidin-4-yl]benzo[b]thiophene | FC=1C=CC2=C(SC=C2C2CCN(CC2)CCC(C(=O)C2=CC=C(C=C2)F)=CN2CCCC2)C1 | C28H30F2N2OS
